US05750531
Step 3: 4-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline
A mixture solution of 1-methyl-1,2,3,4-tetrahydroisoquinoline(2.6 g, 17.4 mmol), triethylamine(2.8 mL), N,N-dimethylformamide (20 ml) and 2,4-dichloro-5,6,7,8-tetrahydroquinazoline(3.2 g, 15.8 mmol) prepared in the above Step 2 were stirred at 80° C. for 3 hours and cooled. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated. The residue was purified with silica gel column chromatography to give 3.1 g of the titled compound. (Yield: 62.5%)

reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 17.4 mmol, 2.6 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | triethylamine | 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 2,4-dichloro-5,6,7,8-tetrahydroquinazoline | 15.8 mmol, 3.2 g | ClC1=NC=2CCCCC2C(=N1)Cl | C8H8Cl2N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 3.1 g, Yield: 62.5% | CC1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C18H20ClN3
